US07820707B2
a) 2-Cyano-N-(2-hydroxyethyl)acetamide
To a solution of ethyl 2-cyanoacetate (10 g, 9.41 mL, 88 mmol) in EtOH (100 mL) was added 2-aminoethanol (5.40 g, 5.34 mL, 88 mmol). The mixture was refluxed for 4 h before concentration in vacuo. The mixture was purified on a 100 g Silica column eluting with 0-10% MeOH/DCM. Desired fractions were collected and concentrated to yield the desired product as a brown oil (10.2 g, 79.7 mmol, 90%). The sample was used directly in the next step without any further purification.

reactant | ethyl 2-cyanoacetate | 88 mmol, 9.41 mL, 10 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 2-aminoethanol | 88 mmol, 5.34 mL, 5.40 g | NCCO | C2H7NO
solvent | EtOH | 100 mL | CCO | C2H6O
product | 2-Cyano-N-(2-hydroxyethyl)acetamide | 79.7 mmol, 10.2 g, 90% | C(#N)CC(=O)NCCO | C5H8N2O2
